US04360690
5.87 g (0.02 mole) of (±)-1-(4-ethoxyphenyl)-2,2-dichlorocyclopropane-1-carboxylic acid chloride and 4.36 g (0.02 mole) of 3-phenoxy-4-fluoro-benzyl alcohol were dissolved in 100 ml of anhydrous toluene, and 3 g of pyridine, dissolved in 50 ml of anhydrous toluene, were added dropwise at 20° to 25° C., while stirring. The reaction mixture was then stirred at 25° C. for a further 3 hours. It was poured into 150 ml of water, to which 10 ml of concentrated hydrochloric acid were added, and the organic phase was separated off and washed again with 100 ml of water. The toluene phase was then dried over sodium sulphate and the solvent was distilled off under a waterpump vacuum. Last residues of solvent were removed by brief incipient distillation at a bath temperature of 60° C./1 mm Hg. 8.1 g (85.3% of theory) of (±)-1-(4-ethoxy-phenyl)-2,2-dichlorocyclopropane- 1-carboxylic acid 3-phenoxy-4-fluorobenzyl ester were obtained as a yellow oil. The structure was confirmed by the 1H-NMR spectrum.

reactant | (±)-1-(4-ethoxyphenyl)-2,2-dichlorocyclopropane-1-carboxylic acid chloride | 0.02 mole, 5.87 g | C(C)OC1=CC=C(C=C1)C1(C(C1)(Cl)Cl)C(=O)Cl | C12H11Cl3O2
reactant | 3-phenoxy-4-fluoro-benzyl alcohol | 0.02 mole, 4.36 g | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1F | C13H11FO2
reactant | pyridine | 3 g | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 150 ml | O | H2O
product | (±)-1-(4-ethoxy-phenyl)-2,2-dichlorocyclopropane- 1-carboxylic acid 3-phenoxy-4-fluorobenzyl ester | 8.1 g, 85.3% | O(C1=CC=CC=C1)C=1C=C(COC(=O)C2(C(C2)(Cl)Cl)C2=CC=C(C=C2)OCC)C=CC1F | C25H21Cl2FO4
